US04061746
Hexahydro-2-[(trans-2-phenylcyclohexyl)imino]azepine hydrochloride
Following the procedure of Example 23, only substituting for cis-2-phenylcyclopentylamine hydrochloride an appropriate amount of trans-2-phenylcyclohexylamine hydrochloride, M.P. 251° -257° C, and employing a reaction time of 38 days, the desired product is obtained, M.P. 236°-239° C.

reactant | cis-2-phenylcyclopentylamine hydrochloride | Cl.C1(=CC=CC=C1)[C@@H]1[C@@H](CCC1)N
reactant | trans-2-phenylcyclohexylamine hydrochloride | Cl.C1(=CC=CC=C1)[C@H]1[C@@H](CCCC1)N
product | Hexahydro-2-[(trans-2-phenylcyclohexyl)imino]azepine hydrochloride | Cl.C1(=CC=CC=C1)[C@H]1[C@@H](CCCC1)N=C1NCCCCC1 | InChI=1S/C18H26N2.ClH/c1-3-9-15(10-4-1)16-11-6-7-12-17(16)20-18-13-5-2-8-14-19-18;/h1,3-4,9-10,16-17H,2,5-8,11-14H2,(H,19,20);1H/t16-,17+;/m0./s1
